US06248264B1
A solution of ethyl 4-acetoxy6-methoxy-2-naphthoate (3.0 g, 10.4 mmol) and sodium hydroxide (2.5 g, 62.5 mmol) in water (60 cm3) and ethanol (15 cm3) was maintained at 80-90° C. for 3 hours. The cooled solution was poured into water (400 cm3) and cautiously acidified with c. HCl. The resulting suspension was extracted with EtOAc (5×75 cm3). The combined extracts were dried (Na2SO4) and evaporated to give a pale brown solid. This solid was dissolved in methanol (50 cm3) containing c. H2SO4 (˜1 cm3) and was refluxed for 4 hours. The cooled mixture was diluted with water (500 cm3) and extracted with EtOAc (4×50 cm3). The combined extracts were washed with aq. sat. NaHCO3 (2×100 cm3) and water (100 cm3). Removal of the dried (Na2SO4) EtOAc gave a pale brown solid which was recrystallised from EtOAc/hexane to afford methyl 4-hydroxy-6-methoxy-2-naphthoate (yield=1.63 g, theoretical yield=2.41 g, 68%, m.p.=193-195° C. (uncorrected)).

reactant | ethyl 4-acetoxy6-methoxy-2-naphthoate | 10.4 mmol, 3.0 g | C(C)(=O)OC1=CC(=CC2=CC=C(C=C12)OC)C(=O)OCC | C16H16O5
reactant | sodium hydroxide | 62.5 mmol, 2.5 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
reactant | H2SO4 | ˜1 cm3 | OS(=O)(=O)O | H2O4S
solvent | water | 60 cm3 | O | H2O
solvent | ethanol | 15 cm3 | C(C)O | C2H6O
solvent | methanol | 50 cm3 | CO | CH4O
solvent | water | 500 cm3 | O | H2O
solvent | water | 400 cm3 | O | H2O
product | methyl 4-hydroxy-6-methoxy-2-naphthoate | yield=1.63 g, 68% | OC1=CC(=CC2=CC=C(C=C12)OC)C(=O)OC | C13H12O4
